US09216964B2
To a reaction vessel under argon containing 2-(6-bromo-5-methylpyridin-2-yl)isoindoline-1,3-dione (85 mg, 0.27 mmol), 2-(tributylstannyl)pyridine (123 mg, 0.32 mmol), Pd(PPh3)4 (31 mg, 0.027 mmol) is added anhydrous toluene (0.7 ml). The mixture is heated to 116° C. with an oil bath for 18 hours, cooled to room temperature, diluted with ethyl acetate and filtered through a celite pad to remove any solids. The filtrate is concentrated to afford 2-(3-methyl-2,2′-bipyridin-6-yl)isoindoline-1,3-dione as a brown solid (LC-MS m/z: 316.1 (M+1)) which is used without further purification in the next step.

reactant | 2-(6-bromo-5-methylpyridin-2-yl)isoindoline-1,3-dione | 0.27 mmol, 85 mg | BrC1=C(C=CC(=N1)N1C(C2=CC=CC=C2C1=O)=O)C | C14H9BrN2O2
reactant | 2-(tributylstannyl)pyridine | 0.32 mmol, 123 mg | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
reactant | toluene | 0.7 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | 0.027 mmol, 31 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(3-methyl-2,2′-bipyridin-6-yl)isoindoline-1,3-dione | CC=1C(=NC(=CC1)N1C(C2=CC=CC=C2C1=O)=O)C1=NC=CC=C1 | C19H13N3O2
